US05834471
Ethyl 4-(imidazol-1-yl)benzoate (0.5 g, 2.3 mmol) was heated at reflux in 5N HCl (40 ml) for 1 h, evaporated to dryness under reduced pressure and the resulting white solid dried in vacuo to afford 4-(imidazol-1-yl)benzoic acid This was suspended in dry toluene (40 ml) and thionyl chloride (2 ml) added under argon. The mixture was heated to reflux for 1.5 h and then evaporated to dryness under reduced pressure. The oil was dissolved in dichloromethane under argon and 4-methoxy-3-(4-methyl-1-piperazinyl)phenylamine (551 mg, 2.3 mmol) was added followed by triethylamine (2 ml). The mixture was stirred at room temperature under argon for 2 h and then partitioned between dichloromethane (50 ml) and saturated potassium carbonate (50 ml), and the organic extracts dried (sodium sulphate). The organic solution was filtered, evaporated to dryness under reduced pressure and purified by column chromatography (silica, chloroform/methanol 5-10%) to afford the amide (809 mg, 90%) which was crystallised from methanol diethyl ether as the oxalate salt.

reactant | Ethyl 4-(imidazol-1-yl)benzoate | 2.3 mmol, 0.5 g | N1(C=NC=C1)C1=CC=C(C(=O)OCC)C=C1 | C12H12N2O2
solvent | HCl | 5N, 40 ml | Cl | ClH
product | 4-(imidazol-1-yl)benzoic acid | N1(C=NC=C1)C1=CC=C(C(=O)O)C=C1 | C10H8N2O2
